US06479515B1
4-[(3-Bromomethyl-2,4-dichlorophenyl)sulphonyl]morpholine
Working analogously to Preparation VII, starting from morpholine and 3-bromomethyl-2,4-dichlorobenzenesulphonyl chloride, the expected product is obtained in the form of a yellow solid (Yield=85%) (the product contains the chloromethylated analogue in part).

reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | 3-bromomethyl-2,4-dichlorobenzenesulphonyl chloride | BrCC=1C(=C(C=CC1Cl)S(=O)(=O)Cl)Cl | C7H4BrCl3O2S
product | 4-[(3-Bromomethyl-2,4-dichlorophenyl)sulphonyl]morpholine | BrCC=1C(=C(C=CC1Cl)S(=O)(=O)N1CCOCC1)Cl | C11H12BrCl2NO3S
